Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right pericallosal aneurysm
 
Major Surgical or Invasive Procedure:
___ - Craniotomy for clipping of right pericallosal aneurysm
 
History of Present Illness:
Ms. ___ is a ___ year-old female initially seen in ___ 
___ in ___ for evaluation of multiple intracranial 
aneurysms, including a 6.4 mm right anterior cerebral artery 
aneurysm, 6.2 mm right posterior cerebral artery aneurysm and a 
3.5 mm left cavernous carotid aneurysm, all identified on MRI 
performed for visual findings and unsteadiness of gait. She has 
a past history of CVA with residual mild left hemiparesis. She 
underwent diagnostic angiography, and after a discussion of 
treatment options, wished to proceed with elective craniotomy 
for clipping of the right pericallosal aneurysm. 

 
Past Medical History:
Hyperlipidemia
Gout
CVA, minimal left hemiparesis
History of alcohol dependence
Fracture femur in ___

 
Social History:
___
Family History:
No family history of aneurysm
 
Physical Exam:
EXAM ON ADMISSION (per clinic note):
Awake, alert, oriented x 3.  Her memory recent and remote was 
good.  Attention and concentration was appropriate.  Language 
and fund of knowledge was good.  Her extraocular movements were 
intact.  Face was symmetric.  Tongue was in the midline.  Her 
motor strength on the right side was ___, on the left side she 
had trace weakness, more in the arm than the left.  She has 
decreased sensation on the left side.

*****

EXAM AT DISCHARGE: 
Awake, alert, oriented x 3. Speech fluent.
PERRL, EOM-I. Mild left facial asymmetry. Tongue midline.
Left pronator drift. Mild left hemiparesis ___ LUE, 4+/5 LLE) 
with decreased sensation on left. 
Wound c/d/i.
 
Pertinent Results:
CT HEAD 
___
1.  Status post right frontal craniotomy and aneurysm clipping 
with expected postoperative changes.  No acute intraparenchymal 
hemorrhage. 
2.  Asymmetric hypodensity involving the white matter of the 
right 
frontoparietal lobe.  This likely represents a chronic infarcts 
seen on 
previous MRI.   

 
Brief Hospital Course:
Ms. ___ proceeded to the OR with Dr. ___ on ___ for 
elective right craniotomy for clipping of a pericallosal 
aneurysm without complications. She was extubated without 
concern and admitted to the ICU for close neurological 
monitoring without overnight events. She was transferred to the 
inpatient floor. She was maintained on home Lamotrigine. She 
remained neurologically intact throughout hospitalization, with 
persistent mild left-sided hemiparesis from a prior CVA. At time 
of discharge, she was ambulating independently, voiding, and 
tolerating a full diet. Pain was well-controlled on oral 
analgesics. She was discharged home in stable condition on POD#4 
with scheduled follow-up for suture removal and routine 
post-operative evaluation as directed.
 
Medications on Admission:
Aamlodipine 10 mg tablet daily
Ascorbic Acid
Desonide 0.05 % lotion. ___ times daily as needed for ear or 
facial rash
Lamotrigine 200 mg tablet daily
Lisinopril 40 mg tablet daily
Metoprolol Succinate ER 150mg daily 
Crestor 20 mg tablet daily 
Aspirin 325 mg tablet daily
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. LaMOTrigine 200 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Metoprolol Succinate XL 200 mg PO DAILY 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4-6H PRN pain Disp 
#*45 Tablet Refills:*0
8. Rosuvastatin Calcium 40 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right pericallosal aneurysm
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your neurosurgeon’s office and speak to the Nurse 
Practitioner if you experience:
- Any neurological issues, such as change in vision, speech or 
movement
- Swelling, drainage, or redness of your incision
- Any problems with medications, such as nausea vomiting or 
lethargy
- Fever greater than 101.5 degrees Fahrenheit
- Headaches not relieved with prescribed medications

Activity:
- Start to resume all activities as you tolerate – but start 
slowly and increase at your own pace.
- Do not operate any motorized vehicle for at least 10 days 
after your surgery – your Nurse Practitioner can give you more 
detail at the time of your suture removal.  

Incision Care:
- Keep your wound clean and dry.
- Do not use shampoo until your sutures are removed. 
- When you are allowed to shampoo your hair, let the shampoo run 
off the incision line.  Gently pad the incision with a towel to 
dry.
- Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.
- You need your sutures removed 7 to 10 days after surgery

Post-Operative Experiences: Physical
- Jaw pain on the same side as your surgery; this goes away 
after about a month
- You may experience constipation.  Constipation can be 
prevented by:
oDrinking plenty of fluids
oIncreasing fiber in your diet by eating vegetables, prunes, 
fiber rich breads and cereals, or fiber supplements
oExercising
oUsing over-the-counter bowel stimulants or laxatives as 
needed, stopping usage if you experience loose bowel movements 
or diarrhea

- Fatigue which will slowly resolve over time
- Numbness or tingling in the area of the incision; this can 
take weeks or months to fully resolve
- Muffled hearing in the ear near the incision area
- Low back pain or shooting pain down the leg which can resolve 
with increased activity

Post-Operative Experiences: Emotional
- You may experience depression.  Symptoms of depression can 
include
oFeeling “down” or sad
oIrritability, frustration, and confusion
oDistractibility
oLower Self-Esteem/Relationship Challenges
oInsomnia
oLoneliness

- If you experience these symptoms, you can contact your Primary 
Care Provider who can make a referral to a Psychologist or 
Psychiatrist

- You can also seek out a local Brain Aneurysm Support Group in 
your area through the Brain Aneurysm Foundation
oMore information can be found at ___

 
Followup Instructions:
___